US04868313
2-(4-Hydroxy-2-oxo-1-pyrrolidineacetamido)acetamide
A mixture of ethyl 4-hydroxy-2-oxo-1-pyrrolidineacetate (0.5 g) and glycinamide (0.6 g) was stirred under nitrogen at 80° C. for 4 hours. After cooling, the mixture was chromatographed on a silica gel column, by eluting with dichloromethane/methanol 7:3, affording the title compound (250 mg).

reactant | ethyl 4-hydroxy-2-oxo-1-pyrrolidineacetate | 0.5 g | OC1CC(N(C1)CC(=O)OCC)=O | C8H13NO4
reactant | glycinamide | 0.6 g | NCC(=O)N | C2H6N2O
product | 2-(4-Hydroxy-2-oxo-1-pyrrolidineacetamido)acetamide | 250 mg | OC1CC(N(C1)CC(=O)NCC(=O)N)=O | C8H13N3O4
